US07375087B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{2-[1-carboxy-1-(methyl)-ethylcarbamoyl]ethoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{2-[1-benzyloxycarbonyl-1-(methyl)-ethylcarbamoyl]ethoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole (0.15 g) was dissolved in methanol (5 mL). To the solution was added 10% palladium-carbon powder (50 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (0.13 g).

reactant | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{2-[1-benzyloxycarbonyl-1-(methyl)-ethylcarbamoyl]ethoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole | 0.15 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCC(NC(C)(C)C(=O)OCC1=CC=CC=C1)=O)C)C(C)C | C42H53N3O14
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{2-[1-carboxy-1-(methyl)-ethylcarbamoyl]ethoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole | 0.13 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCC(NC(C)(C)C(=O)O)=O)C)C(C)C | C35H47N3O14
